US04585788
A solution of 5.0 g. of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid in 16 ml. of 5% sodium hydroxide is added dropwise to a cold solution of 1.36 g. of sodium borohydride in 40 ml. of water. The reaction mixture is stirred at 0° C. for 4 hours, poured onto ice, and acidified with glacial acetic acid. The precipitate is filtered and washed with water to provide colorless crystals, m.p. 132°-133.5° C. of 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-acetic acid.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-acetic acid | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H14O4
